US05102667
N,N'-Carbonyldiimidazole (1.13 g) is added to a solution of 2-(4-fluorophenyl)acetic acid (1.08 g) in dry dichloromethane (30 cc), cooled to +5° C. The mixture is stirred for 1 hour at +5° C. and a solution of 7,7-diphenyl-4-perhydroisoindolone hydrochloride (2.3 g) and triethylamine (0.98 cc) in dichloromethane (40 cc) is then added. The reaction mixture is stirred for 1 hour at +5° C. and then for 16 hours at 20° C. The reaction mixture is washed with distilled water (3×50 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is recrystallized form acetonitrile (5 cc). The crystals are drained, washed with isopropyl ether (10 cc) and dried. (3aRS,7aRS)-2-[(4-fluorophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone (2 g) melting at 210° C. is obtained.

reactant | 2-(4-fluorophenyl)acetic acid | 1.08 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 7,7-diphenyl-4-perhydroisoindolone hydrochloride | 2.3 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 0.98 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 40 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-[(4-fluorophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone | 2 g | FC1=CC=C(C=C1)CC(=O)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26FNO2
